US04775692
To a solution of diisopropylamine (8.9 ml, 63.3 mmol) in 100 ml of anhydrous THF was added dropwise n-butyl lithium (1.59N, 39.8 ml, 63.3 mmol) at -78° C. under argon atmosphere. After the mixture was stirred at -78° C. for 30 minutes, methyl 3-cyclohexyl-2-methylpropionate (7.7829 g, 42.2 mmol) was added dropwise. After the mixture was stirred at -78° C. for 30 minutes, a solution of methyl iodide (3.9 ml, 63.3 mmol) in HMPA (2.2 ml, 12.7 mmol) was added dropwise. After being stirred at -78° C. for 1 hour, the reaction mixture was diluted with an aqueous saturated solution of ammonium chloride. The aqueous mixture was extracted with ether (50 ml×4). Then, the combined ether layers were washed water (50 ml) and brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled to give a colorless liquid of methyl 3-cyclohexyl-2,2-dimethylpropionate (5.7294 g, yield 52.2%, b.p. 121.5°-123° C./22 mmHg), which was assigned the structure by the following data:

reactant | diisopropylamine | 63.3 mmol, 8.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 63.3 mmol, 1.59N, 39.8 ml | C(CCC)[Li]
reactant | methyl 3-cyclohexyl-2-methylpropionate | 42.2 mmol, 7.7829 g | C1(CCCCC1)CC(C(=O)OC)C | C11H20O2
reactant | methyl iodide | 63.3 mmol, 3.9 ml | CI | CH3I
reactant | HMPA | 12.7 mmol, 2.2 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | methyl 3-cyclohexyl-2,2-dimethylpropionate | 5.7294 g, yield 52.2% | C1(CCCCC1)CC(C(=O)OC)(C)C | C12H22O2
